US07541736B2
14.07 g (110 mmol) of 2-thiophene-boronic acid, 24.9 g (100 mmol) of 1-iodo-2-nitrobenzene, and 5.78 g (5 mmol) of tetrakis(triphenylphosphine)palladium(0) were dissolved in 250 ml of ethylene glycol dimethyl ether (DME), and 70 ml of 2M K2CO3 aqueous solution was added to the solution, and then the mixture was refluxed at 80° C. for 12 hours. After the reaction was completed, an organic layer was isolated and concentrated, and then isolated by column chromatography using hexane, thereby obtaining 22.1 g (yield: 98%) of 2-(2′-nitrophenyl)-thiophene (A′).

reactant | 2-thiophene-boronic acid | 110 mmol, 14.07 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | 1-iodo-2-nitrobenzene | 100 mmol, 24.9 g | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | K2CO3 | 2M, 70 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | ethylene glycol dimethyl ether | 250 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5 mmol, 5.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2′-nitrophenyl)-thiophene | 22.1 g, yield: 98% | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC=CC1 | C10H7NO2S
